* /home/samyukthashrruthi/esim-workspace/captodig2/captodig2.cir

.include Dff1.sub
.include vlc_new.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" 
 

* u2  net-_u2-pad1_ net-_sc1-pad3_ net-_u2-pad3_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u3  net-_u1-pad4_ net-_sc2-pad2_ dac_bridge_1
v1 net-_u2-pad1_ gnd  dc 1.3
v2 net-_sc4-pad2_ gnd  dc 1.3
x1 ip1 net-_sc2-pad1_ net-_x1-pad3_ vlc_new
x2 net-_x1-pad3_ net-_sc2-pad1_ net-_x2-pad3_ vlc_new
x3 net-_x2-pad3_ net-_sc2-pad1_ net-_u2-pad3_ vlc_new
xsc5 net-_sc2-pad1_ gnd sky130_fd_pr__cap_mim_m3_1 
v4  ip1 gnd pwl(0 0 1n 0 1.001n 1.3)
x4 ip1 net-_x10-pad2_ net-_u7-pad1_ vlc_new
x5 net-_u2-pad3_ net-_x11-pad2_ net-_u7-pad2_ vlc_new
* u5  ip1 net-_u2-pad3_ net-_u5-pad3_ net-_u5-pad4_ adc_bridge_2
x6 net-_u7-pad1_ net-_x10-pad2_ net-_u9-pad1_ vlc_new
x7 net-_u7-pad2_ net-_x11-pad2_ net-_u9-pad2_ vlc_new
* u7  net-_u7-pad1_ net-_u7-pad2_ net-_u7-pad3_ net-_u7-pad4_ adc_bridge_2
v5 net-_x10-pad2_ gnd  dc 1
* u6  net-_u6-pad1_ net-_u17-pad8_ dac_bridge_1
* u8  net-_u8-pad1_ net-_u17-pad7_ dac_bridge_1
v6 net-_x11-pad2_ gnd  dc 1
x8 net-_u9-pad1_ net-_x10-pad2_ net-_u11-pad1_ vlc_new
x9 net-_u9-pad2_ net-_x11-pad2_ net-_u11-pad2_ vlc_new
* u9  net-_u9-pad1_ net-_u9-pad2_ net-_u9-pad3_ net-_u9-pad4_ adc_bridge_2
* u10  net-_u10-pad1_ net-_u10-pad2_ dac_bridge_1
x10 net-_u11-pad1_ net-_x10-pad2_ net-_u13-pad1_ vlc_new
x11 net-_u11-pad2_ net-_x11-pad2_ net-_u13-pad2_ vlc_new
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ adc_bridge_2
* u12  net-_u12-pad1_ net-_u12-pad2_ dac_bridge_1
x12 net-_u13-pad1_ net-_x10-pad2_ net-_u15-pad1_ vlc_new
x13 net-_u13-pad2_ net-_x11-pad2_ net-_u15-pad2_ vlc_new
* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ adc_bridge_2
* u14  net-_u14-pad1_ net-_u14-pad2_ dac_bridge_1
x14 net-_u15-pad1_ net-_x10-pad2_ net-_u19-pad1_ vlc_new
x15 net-_u15-pad2_ net-_x11-pad2_ net-_u19-pad2_ vlc_new
* u15  net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ net-_u15-pad4_ adc_bridge_2
* u18  net-_u18-pad1_ net-_u17-pad3_ dac_bridge_1
x16 net-_u19-pad1_ net-_x10-pad2_ net-_u25-pad1_ vlc_new
x17 net-_u19-pad2_ net-_x11-pad2_ net-_u25-pad2_ vlc_new
* u19  net-_u19-pad1_ net-_u19-pad2_ net-_u19-pad3_ net-_u19-pad4_ adc_bridge_2
* u21  net-_u21-pad1_ net-_u17-pad2_ dac_bridge_1
* u25  net-_u25-pad1_ net-_u25-pad2_ net-_u25-pad3_ net-_u25-pad4_ adc_bridge_2
* u26  net-_u26-pad1_ net-_u17-pad1_ dac_bridge_1
* u17  net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u14-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u17-pad7_ net-_u17-pad8_ net-_u16-pad1_ net-_u16-pad2_ net-_u16-pad3_ net-_u16-pad4_ net-_u16-pad5_ net-_u16-pad6_ net-_u16-pad7_ net-_u16-pad8_ adc_bridge_8
* u16  net-_u16-pad1_ net-_u16-pad2_ net-_u16-pad3_ net-_u16-pad4_ net-_u16-pad5_ net-_u16-pad6_ net-_u16-pad7_ net-_u16-pad8_ net-_u16-pad9_ net-_u16-pad10_ net-_u16-pad11_ samyuktha_encoder
* u20  net-_u16-pad9_ net-_u16-pad10_ net-_u16-pad11_ op1 op2 op3 dac_bridge_3
* u24  op1 plot_v1
* u22  op2 plot_v1
* u23  op3 plot_v1
* u4  ip1 plot_v1
v3 net-_sc1-pad3_ gnd  dc 1
* s c m o d e
x18 net-_u5-pad3_ net-_u5-pad4_ net-_u6-pad1_ Dff1
x19 net-_u7-pad3_ net-_u7-pad4_ net-_u8-pad1_ Dff1
x20 net-_u9-pad3_ net-_u9-pad4_ net-_u10-pad1_ Dff1
x21 net-_u11-pad3_ net-_u11-pad4_ net-_u12-pad1_ Dff1
x22 net-_u13-pad3_ net-_u13-pad4_ net-_u14-pad1_ Dff1
x23 net-_u15-pad3_ net-_u15-pad4_ net-_u18-pad1_ Dff1
x24 net-_u19-pad3_ net-_u19-pad4_ net-_u21-pad1_ Dff1
x25 net-_u25-pad3_ net-_u25-pad4_ net-_u26-pad1_ Dff1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ sam_mux
a1 [net-_u2-pad1_ net-_sc1-pad3_ net-_u2-pad3_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u2
a2 [net-_u1-pad4_ ] [net-_sc2-pad2_ ] u3
a3 [ip1 net-_u2-pad3_ ] [net-_u5-pad3_ net-_u5-pad4_ ] u5
a4 [net-_u7-pad1_ net-_u7-pad2_ ] [net-_u7-pad3_ net-_u7-pad4_ ] u7
a5 [net-_u6-pad1_ ] [net-_u17-pad8_ ] u6
a6 [net-_u8-pad1_ ] [net-_u17-pad7_ ] u8
a7 [net-_u9-pad1_ net-_u9-pad2_ ] [net-_u9-pad3_ net-_u9-pad4_ ] u9
a8 [net-_u10-pad1_ ] [net-_u10-pad2_ ] u10
a9 [net-_u11-pad1_ net-_u11-pad2_ ] [net-_u11-pad3_ net-_u11-pad4_ ] u11
a10 [net-_u12-pad1_ ] [net-_u12-pad2_ ] u12
a11 [net-_u13-pad1_ net-_u13-pad2_ ] [net-_u13-pad3_ net-_u13-pad4_ ] u13
a12 [net-_u14-pad1_ ] [net-_u14-pad2_ ] u14
a13 [net-_u15-pad1_ net-_u15-pad2_ ] [net-_u15-pad3_ net-_u15-pad4_ ] u15
a14 [net-_u18-pad1_ ] [net-_u17-pad3_ ] u18
a15 [net-_u19-pad1_ net-_u19-pad2_ ] [net-_u19-pad3_ net-_u19-pad4_ ] u19
a16 [net-_u21-pad1_ ] [net-_u17-pad2_ ] u21
a17 [net-_u25-pad1_ net-_u25-pad2_ ] [net-_u25-pad3_ net-_u25-pad4_ ] u25
a18 [net-_u26-pad1_ ] [net-_u17-pad1_ ] u26
a19 [net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u14-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u17-pad7_ net-_u17-pad8_ ] [net-_u16-pad1_ net-_u16-pad2_ net-_u16-pad3_ net-_u16-pad4_ net-_u16-pad5_ net-_u16-pad6_ net-_u16-pad7_ net-_u16-pad8_ ] u17
a20 [net-_u16-pad1_ net-_u16-pad2_ net-_u16-pad3_ net-_u16-pad4_ net-_u16-pad5_ net-_u16-pad6_ net-_u16-pad7_ net-_u16-pad8_ ] [net-_u16-pad9_ net-_u16-pad10_ net-_u16-pad11_ ] u16
a21 [net-_u16-pad9_ net-_u16-pad10_ net-_u16-pad11_ ] [op1 op2 op3 ] u20
a22 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u18 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u21 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u25 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u26 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u17 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             samyuktha_encoder, NgSpice Name: samyuktha_encoder
.model u16 samyuktha_encoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u20 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             sam_mux, NgSpice Name: sam_mux
.model u1 sam_mux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.01e-09 200e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(op1) v(op2)+6
plot v(op3)+12
plot v(ip1)+24
.endc
.end
