* /home/samyukthashrruthi/esim-2.3/library/subcircuitlibrary/vlc_new/vlc_new.cir

xsc1 net-_sc1-pad1_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc7 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc7-pad3_ net-_sc7-pad3_ sky130_fd_pr__nfet_01v8 
xsc5 net-_sc10-pad2_ net-_sc3-pad2_ net-_sc5-pad3_ net-_sc5-pad3_ sky130_fd_pr__nfet_01v8 
xsc8 net-_sc7-pad3_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc4 net-_sc3-pad3_ net-_sc1-pad1_ net-_sc2-pad1_ net-_sc2-pad1_ sky130_fd_pr__pfet_01v8 
xsc9 net-_sc10-pad3_ net-_sc1-pad1_ net-_sc2-pad1_ net-_sc2-pad1_ sky130_fd_pr__pfet_01v8 
xsc3 net-_sc10-pad2_ net-_sc3-pad2_ net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__pfet_01v8 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__pfet_01v8 
v1 net-_sc2-pad1_ gnd  dc 0
xsc2 net-_sc2-pad1_ net-_sc1-pad1_ net-_sc1-pad1_ ? sky130_fd_pr__pfet_01v8 
* u1  ? ? dac_bridge_1
xsc6 net-_sc5-pad3_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
* u2  net-_sc1-pad2_ net-_sc3-pad2_ net-_sc10-pad1_ port
a1 [? ] [? ] u1
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
